MM10 (net27 net12 VSS VSS) nmos4
MM9 (net21 net12 VSS VSS) nmos4
MM8 (net12 net1003 net27 VSS) nmos4
MM7 (net38 net1003 net21 VSS) nmos4
MM3 (net32 VREF1 net10 VSS) nmos4
MM0 (net26 net35 net10 VSS) nmos4
MM4 (net10 net1001 VSS VSS) nmos4
MM6 (net12 VB2 net26 VDD) pmos4
MM5 (net38 VB2 net32 VDD) pmos4
MM1 (net32 VB1 VDD VDD) pmos4
MM2 (net26 VB1 VDD VDD) pmos4
MM15 (net1003 net1003 net1001 VSS) nmos4
MM13 (net1001 net1001 VSS VSS) nmos4
MM14 (net1003 net1006 VDD VDD) pmos4
MM3 (net1006 net1006 VDD VDD) pmos4
MM1 (VB3 net1006 VDD VDD) pmos4
RR0 (net15 VSS) resistor
MM0 (VB3 VB3 VSS VSS) nmos4
MM2 (net1006 VB3 net15 VSS) nmos4
M16 (net33 net18 net014 net014) pmos4
? Missing component
M11 (net27 net38 net014 net014) pmos4
M4 (net20 VCONT5 VOUT1 VOUT1) pmos4
M2 (net15 VCONT3 VIN1 VIN1) pmos4
M1 (net33 VCONT2 VIN1 VIN1) pmos4
M0 (net014 VCONT1 VIN1 VIN1) pmos4
C2 (VOUT1 VSS) capacitor
C1 (VOUT1 net36) capacitor
C0 (net33 net15) capacitor
L0 (net33 net20) inductor
M14 (net27 VB4 VSS VSS) nmos4
M13 (net18 net27 VSS VSS) nmos4
M12 (net27 net27 VSS VSS) nmos4
M3 (net20 VCONT4 VSS VSS) nmos4
R1 (net35 VSS) resistor
R0 (VOUT1 net35) resistor
D0 (net36 net15) diode
