M1 (VOUT1 net13 VIN2 VSS) nmos4
M0 (VOUT2 net14 VIN1 VSS) nmos4
? Missing component
R0 (VDD VOUT2) resistor
L1 (VIN2 VSS) inductor
L0 (VIN1 VSS) inductor
C1 (net14 VIN2) capacitor
C0 (net13 VIN1) capacitor
