M3 (VOUT2 net22 VRF1 VSS) nmos4
M2 (VOUT2 net17 VRF1 VSS) nmos4
M1 (VOUT1 net16 VRF1 VSS) nmos4
M0 (VOUT1 net11 VRF1 VSS) nmos4
R5 (net17 VB3) resistor
R4 (net16 VB2) resistor
? Missing component
R2 (net11 VB1) resistor
R1 (VSS VOUT2) resistor
R0 (VSS VOUT1) resistor
C5 (VLO2 net22) capacitor
C4 (VLO2 net16) capacitor
C3 (VLO1 net17) capacitor
C2 (VLO1 net11) capacitor
C1 (VSS VOUT2) capacitor
C0 (VSS VOUT1) capacitor
