Q13 (IOUT1 VLO1 net57 0) npn
Q12 (IOUT2 VLO1 net54 0) npn
Q11 (IOUT1 VLO2 net55 0) npn
Q10 (IOUT2 VLO2 net56 0) npn
Q9 (IB1 IB1 VSS 0) npn
Q8 (net25 IB1 VSS 0) npn
Q7 (net29 IB1 VSS 0) npn
Q0 (IOUT2 VLO1 net59 0) npn
Q6 (IB2 IB2 VSS 0) npn
Q5 (net39 IB2 VSS 0) npn
Q4 (net35 IB2 VSS 0) npn
Q3 (IOUT1 VLO1 net60 0) npn
Q2 (IOUT2 VLO2 net61 0) npn
Q1 (IOUT1 VLO2 net58 0) npn
R7 (net25 net54) resistor
R6 (net25 net55) resistor
R5 (net29 net56) resistor
R4 (net29 net57) resistor
R3 (net39 net60) resistor
? Missing component
R1 (net35 net58) resistor
R0 (net35 net59) resistor
C3 (net25 VRF1) capacitor
C2 (net29 VRF2) capacitor
C1 (net39 VRF2) capacitor
C0 (net35 VRF1) capacitor
