Q5 (net16 net15 net17 0) npn
Q4 (net17 VB3 net24 0) npn
Q3 (net24 net12 VSS 0) npn
Q2 (net28 net13 VSS 0) npn
Q1 (net18 VB3 net28 0) npn
Q0 (net19 net14 net18 0) npn
L4 (net17 net18) inductor
L3 (net16 VDD) inductor
L2 (VIN2 VIN1) inductor
L0 (VDD net19) inductor
C5 (net15 VSS) capacitor
C4 (VOUT2 net16) capacitor
C3 (net23 VIN2) capacitor
C2 (net25 VIN1) capacitor
C1 (net14 VSS) capacitor
C0 (VOUT1 net19) capacitor
R5 (VB2 net15) resistor
R4 (VB1 net12) resistor
R3 (net23 net12) resistor
R2 (net13 VB1) resistor
R1 (net25 net13) resistor
? Missing component
