Q1 (net28 net27 net27 0) npn
Q0 (net33 net31 net30 0) npn
R5 (VB1 net27) resistor
R3 (net30 VDD) resistor
R2 (net31 VDD) resistor
R1 (VSS net31) resistor
? Missing component
C3 (net30 VDD) capacitor
C2 (net31 net30) capacitor
C1 (net27 VDD) capacitor
L1 (net33 VOUT1) inductor
L0 (net28 net31) inductor
