M1 (IB1 IB1 VDD VDD) pmos4
M0 (net18 IB1 VDD VDD) pmos4
L3 (VDD net27) inductor
L2 (VDD net9) inductor
L1 (net18 net35) inductor
L0 (net18 net12) inductor
M7 (net27 VDD net40 VSS) nmos4
M6 (net40 net35 VSS VSS) nmos4
M5 (net9 VDD net41 VSS) nmos4
M4 (net41 net12 VSS VSS) nmos4
M3 (net35 net12 VSS VSS) nmos4
M2 (net12 net35 VSS VSS) nmos4
C9 (net29 VSS) capacitor
C8 (net29 net27) capacitor
C7 (net30 VSS) capacitor
C6 (net30 net9) capacitor
C5 (VDD net27) capacitor
C4 (VDD net9) capacitor
C3 (net35 VB1) capacitor
C2 (net12 VB1) capacitor
C1 (net35 VSS) capacitor
C0 (net12 VSS) capacitor
R3 (net29 VSS) resistor
R2 (VDD net29) resistor
? Missing component
R0 (VDD net30) resistor
