Q15 (VDD net65 net63 0) npn
Q14 (VDD net67 net69 0) npn
Q13 (VDD net69 net76 0) npn
Q12 (VDD net63 net79 0) npn
Q11 (net69 net79 net87 0) npn
Q10 (net63 net76 net88 0) npn
Q9 (net76 net81 net71 0) npn
Q8 (net79 net75 net77 0) npn
Q7 (net81 net79 net73 0) npn
Q6 (net75 net76 net78 0) npn
Q0 (VDD net66 net64 0) npn
Q5 (net70 net75 net102 0) npn
Q4 (net64 net81 net101 0) npn
Q3 (VDD net70 net81 0) npn
Q2 (VDD net64 net75 0) npn
Q1 (VDD net68 net70 0) npn
L1 (net65 net67) inductor
L0 (net66 net68) inductor
C5 (net67 net65) capacitor
C4 (net91 net90) capacitor
C3 (net94 net93) capacitor
C2 (net97 net96) capacitor
C1 (net100 net99) capacitor
C0 (net68 net66) capacitor
R15 (net71 VSS) resistor
R14 (net87 VSS) resistor
R13 (net88 VSS) resistor
R12 (net77 VSS) resistor
R11 (net90 VSS) resistor
R10 (net71 net91) resistor
R9 (net93 VSS) resistor
? Missing component
R7 (net96 VSS) resistor
R6 (net73 net97) resistor
R5 (net99 VSS) resistor
R4 (net78 net100) resistor
R3 (net73 VSS) resistor
R2 (net102 VSS) resistor
R1 (net101 VSS) resistor
R0 (net78 VSS) resistor
