M5 (net36 net45 VSS net49) nmos4
M4 (net23 net26 VSS net39) nmos4
M3 (net30 net50 net28 net51) nmos4
M2 (net31 net52 net29 net53) nmos4
M0 (net43 net41 VSS net47) nmos4
M1 (net41 net43 VSS net42) nmos4
L5 (VDD net36) inductor
L4 (VDD net23) inductor
L3 (net45 net43) inductor
L2 (net26 net41) inductor
L1 (VDD net45) inductor
L0 (VDD net26) inductor
R11 (net49 VSS) resistor
R10 (net39 VSS) resistor
R9 (net47 VSS) resistor
R8 (net42 VSS) resistor
R7 (net30 VSS) resistor
R6 (net28 VSS) resistor
R5 (net50 VB2) resistor
R4 (VSS net51) resistor
? Missing component
R2 (net29 VSS) resistor
R1 (net52 VB1) resistor
R0 (VSS net53) resistor
C16 (VDD VSS) capacitor
C15 (VOUT2 net36) capacitor
C14 (VDD VSS) capacitor
C13 (VOUT1 net23) capacitor
C12 (net30 net45) capacitor
C10 (net28 net26) capacitor
C8 (VDD VSS) capacitor
C7 (net31 net45) capacitor
C6 (net31 net45) capacitor
C5 (net29 net26) capacitor
C4 (net29 net26) capacitor
C3 (VCONT2 VSS) capacitor
C2 (VCONT2 net43) capacitor
C1 (VCONT1 VSS) capacitor
C0 (VCONT1 net41) capacitor
