M6 (IB1 IB1 VSS VSS) nmos4
M5 (net18 IB1 VSS VSS) nmos4
M4 (net12 net21 net18 VSS) nmos4
M3 (net21 net12 net18 VSS) nmos4
M2 (net13 VCONT3 net25 VSS) nmos4
M1 (net13 VCONT2 VSS VSS) nmos4
M0 (VDD net13 IB1 VSS) nmos4
R1 (VDD net18) resistor
? Missing component
C2 (VCONT1 net21) capacitor
C1 (VCONT1 net12) capacitor
C0 (net18 net25) capacitor
L1 (VDD net21) inductor
L0 (VDD net12) inductor
