MM14 (net025 net012 VDD VDD) pmos4
MM13 (net024 net012 VDD VDD) pmos4
MM3 (net38 VB1 net025 VDD) pmos4
MM2 (net012 VB1 net024 VDD) pmos4
MM7 (net11 net35 net14 net27) pmos4
MM6 (net16 VREF1 net14 net27) pmos4
MM5 (net14 VB2 VDD VDD) pmos4
MM12 (net29 net11 VSS VSS) nmos4
MM11 (net32 net16 VSS VSS) nmos4
MM10 (net33 net11 VSS VSS) nmos4
MM4 (net26 net16 VSS VSS) nmos4
MM1 (net38 net1003 net29 VSS) nmos4
MM0 (net012 net1003 net32 VSS) nmos4
MM9 (net11 net1003 net33 VSS) nmos4
MM8 (net16 net1003 net26 VSS) nmos4
MM13 (net9 net1003 VSS VSS) nmos4
MM15 (net1003 net1003 net9 VSS) nmos4
MM14 (net1003 net1006 VDD VDD) pmos4
MM2 (net1006 VB3 VSS VSS) nmos4
MM0 (net010 VB3 VSS VSS) nmos4
MM3 (net1006 net1006 VDD VDD) pmos4
MM1 (VB3 net1006 VDD VDD) pmos4
RR0 (VB3 net010) resistor
M16 (net33 net18 net014 net014) pmos4
M15 (net18 net18 net014 net014) pmos4
M11 (net27 net38 net014 net014) pmos4
M4 (net20 VCONT5 VOUT1 VOUT1) pmos4
M2 (net15 VCONT3 VIN1 VIN1) pmos4
M1 (net33 VCONT2 VIN1 VIN1) pmos4
M0 (net014 VCONT1 VIN1 VIN1) pmos4
C2 (VOUT1 VSS) capacitor
C1 (VOUT1 net36) capacitor
C0 (net33 net15) capacitor
L0 (net33 net20) inductor
M14 (net27 VB4 VSS VSS) nmos4
M13 (net18 net27 VSS VSS) nmos4
M12 (net27 net27 VSS VSS) nmos4
M3 (net20 VCONT4 VSS VSS) nmos4
R1 (net35 VSS) resistor
? Missing component
D0 (net36 net15) diode
