MM8 (net9 net9 VSS VSS) nmos4
MM7 (net38 net9 VSS VSS) nmos4
MM3 (net20 VREF1 net16 VSS) nmos4
MM0 (net11 net35 net16 VSS) nmos4
MM4 (net16 net1005 VSS VSS) nmos4
MM6 (net9 net11 VDD VDD) pmos4
MM5 (net38 net20 VDD VDD) pmos4
MM1 (net20 net20 VDD VDD) pmos4
MM2 (net11 net11 VDD VDD) pmos4
MM8 (net1005 net1005 VSS VSS) nmos4
MM10 (net1005 net1006 VDD VDD) pmos4
RR0 (VDD net6) resistor
RR1 (net1006 VSS) resistor
MM2 (net1006 net1006 net6 VDD) pmos4
M16 (net33 net18 net014 net014) pmos4
M15 (net18 net18 net014 net014) pmos4
M11 (net27 net38 net014 net014) pmos4
M4 (net20 VCONT5 VOUT1 VOUT1) pmos4
M2 (net15 VCONT3 VIN1 VIN1) pmos4
M1 (net33 VCONT2 VIN1 VIN1) pmos4
M0 (net014 VCONT1 VIN1 VIN1) pmos4
C2 (VOUT1 VSS) capacitor
C1 (VOUT1 net36) capacitor
C0 (net33 net15) capacitor
L0 (net33 net20) inductor
M14 (net27 VB1 VSS VSS) nmos4
M13 (net18 net27 VSS VSS) nmos4
M12 (net27 net27 VSS VSS) nmos4
M3 (net20 VCONT4 VSS VSS) nmos4
R1 (net35 VSS) resistor
? Missing component
D0 (net36 net15) diode
