spice
* Transistor Q1 (NPN)
? Missing component
* Transistor Q2 (NPN)
Q2 4 3 4 NPN
* Resistor RC
RC 3 4 1k
* Input Voltage Source
Vin 2 0 DC 0
* Supply Voltage
VCC 4 0 DC 5V
.model NPN NPN
.end
