spice
* Example SPICE netlist for the given schematic
* Voltage Sources
VCC VCC 0 DC 12V
VIN Vin 0 DC 5V
* Resistors
RE 4 VCC 1k
RC 2 0 1k
* Transistors
? Missing component
Q2 3 2 VCC QNPN
* Models
.model QNPN NPN
