spice
* SPICE netlist for the schematic
Q1 3 2 4 NPN
? Missing component
RC 2 3 1k
RE 4 0 1k
VCC 5 0 DC 10V
Vin 3 0 DC 2V
Vb 2 0 DC 2V
.model NPN NPN
.model PNP PNP
.end
