spice
* BJT Amplifier Circuit
VCC 2 0 DC 2.5
Vin Vin 0 DC 0V
* Resistors
R1 Vin 2 1k
RL Vout 0 500
* Transistor: Q1 is NPN
? Missing component
* Models
.model NPN NPN(IS=1E-15 BF=100)
* Simulation Commands
.op
.end
