spice
* Bipolar Junction Transistor Amplifier Circuit
VCC 2 0 DC 2.5V
Vin in 0 AC 1V
R1 5 2 1k
RE 5 0 100
RL 3 0 1k
C1 in 4 10uF
C2 4 3 10uF
? Missing component
.model QMOD NPN (Is=1e-16 Bf=100)
.end
