spice
* SPICE Netlist
* Voltage Sources
VIN 3 5 DC 0
VCC 6 0 DC VCC
* Current Source
IIN 6 3 DC IIN
* NPN Transistors
Q1 2 3 5 QNPN
? Missing component
.model QNPN NPN (IS=1e-14 BF=100)
* Control voltage for output
VOUT 2 5 DC 0
* End of netlist
