spice
* SPICE netlist for the given schematic
* Transistors
? Missing component
Q2 5 9 6 QMOD
Q3 4 9 2 QMOD
* Current Source
IIN 3 7 DC IIN_VALUE
* Voltage Source
VCC 7 0 DC VCC_VALUE
* Model Definitions
.model QMOD NPN
