plaintext
* SPICE Netlist
* Current Source
I_REF 3 0 DC
* Transistors
? Missing component
Q2 4 2 0 QMOD
Q3 4 2 0 QMOD
* Models
.model QMOD NPN
* Voltage Source
VCC 4 0 DC
