spice
* SPICE Netlist for the given schematic
IREF 6 0 DC 0.25mA
I1 5 0 DC 0.75mA
I2 2 0 DC 0.5mA
? Missing component
Q1 6 3 0 QMODEL
Q2 3 4 0 QMODEL
Q3 4 5 0 QMODEL
Q4 2 2 0 QMODEL
Q5 2 2 0 QMODEL
.model QMODEL NPN(IS=1E-15 BF=100)
