* SPICE Netlist
* Current Source
IREF VCC X DC 0.2mA
* Transistors
Q1 X 4 0 NPN
? Missing component
* Voltage Supply
VCC VCC 0 DC <VCC_value>
* Model Definition (Assuming default models)
.model NPN NPN
