plaintext
* Transistor Definitions (Assuming NPN BJT)
? Missing component
Q2 net1 Vb2 0 QNPN
* Resistor
RC VCC V1 1k
* Voltage Source
VCC VCC 0 DC 10V
* Model Definitions
.model QNPN NPN (IS=1E-14 BF=100)
* End of netlist
