* Transistor Definitions
Q1 3 5 4 QNPN
Q2 3 0 1 QNPN
? Missing component
* Voltage Sources
Vb1 5 0 DC <value1>
Vb2 1 0 DC <value2>
Vb3 2 0 DC <value3>
VCC 2 0 DC <value4>
* Resistor
Rout 3 2 <Rout_value>
* Model Definitions
.model QNPN NPN
.model QPNP PNP
.end
