spice
* Transistor Q1 (NPN)
Q1 Vout Q1_base 0 NPN
* Transistor Q2 (NPN)
? Missing component
* Resistor RE
RE Q1_base 0 1000 ; Example value, replace with actual if known
* Voltage Sources
Vin Vin 0 DC 5V ; Example value, replace with actual if known
Vb Vb 0 DC 2.5V ; Example value, replace with actual if known
Vcc VCC 0 DC 10V ; Example value, replace with actual if known
.model NPN NPN (IS=1e-14 BF=100)
