* SPICE Netlist
* Transistors
QREF 3 3 4 QN
? Missing component
* Current Source
IREF 3 1 DC
* Resistor
RP 4 0 1k
* Voltage Source
VCC 1 0 DC 5V
* Models
.model QN NPN (IS=1e-14 BF=100)
.end
