spice
* SPICE Netlist
* Current Source
IREF 3 2 DC 0
* Transistors
QREF 2 2 4 QMOD
Q1 2 2 3 QMOD
? Missing component
* Model for NPN Transistor
.model QMOD NPN
