plaintext
* SPICE Netlist
I1 nAE VCC I_REF
Q1 mAE nAE 2 NPN
Q2 kAE nAE 2 NPN
? Missing component
* Nodes:
* VCC = Supply Voltage
* nAE, mAE, and kAE = Node annotations
* 2 = Ground
.END
