spice
* SPICE Netlist
VCC 3 0 DC 2.5V
IREF 3 2 DC 1mA
* Transistors
* Qname Drain Gate Source Model
QREF 2 Vin 2 NMOS_MODEL
? Missing component
Q2 3 Vin 4 PMOS_MODEL
* Models
.model NMOS_MODEL NMOS (Level=1)
.model PMOS_MODEL PMOS (Level=1)
.end
