spice
* SPICE netlist for the circuit
* Voltage Source
VCC 2 1 DC 2.5V
* Current Source
IREF 2 4 DC IREF_value
* Resistor
RC 2 6 RC_value
* Transistors
QREF 4 4 1 PNP_MODEL
Q1 3 4 1 PNP_MODEL
? Missing component
* Assigning Models
.model PNP_MODEL PNP
.model NPN_MODEL NPN
* End of netlist
.end
