spice
* BJT Differential Pair
* Q1 and Q2 are NPN BJTs
VCC 2 0 DC 10V
VCM 5 0 DC 5V
I1 4 0 DC 1mA
Q1 6 5 4 QNPN
? Missing component
RC1 6 2 10k
RC2 2 2 10k
.model QNPN NPN(IS=1e-14 BF=100)
