* Transistors
Q1 Vout Vin1 P NPN
Q2 Vout Vin2 P NPN
Q3 VCC Vb Vout PNP
? Missing component
* Current Source
IEE P 0 DC 1mA
* Supply Voltage
VCC VCC 0 DC 15V
* Control Voltages
Vb Vb 0 DC 2.7V
Vin1 Vin1 0 DC 2.5V
Vin2 Vin2 0 DC 2.5V
* End of netlist
.end
