plaintext
* Differential Amplifier SPICE Netlist
Q1 N2 N1 P N2 NPN
? Missing component
Q3 N4 N4 N3 N4 PNP
Q4 N4 N4 N3 N4 PNP
R1 N3 N6 1k
R2 N6 N5 1k
I_EE P 0 DC 1mA
VCC N4 0 DC 5V
VB N4 0 DC 1.5V
* Node assignments:
* N1 = Vin1
* N2 = P (Common emitter node)
* N3 = Vout
* N4 = VCC
* N5 = Vin2
* N6 = Junction between R1 and R2
.end
