plaintext
* SPICE netlist for the given circuit
* Voltage Source
VCC 7 0 DC 0
* Current Sources
IIN 7 4 DC 0
IC1 4 2 DC 0
* Resistors
R1 7 4 1k
R2 5 2 1k
* Transistors
Q1 4 7 2 NPN
? Missing component
* Outputs
VOUT 3 0 DC 0
* Ground
0 GND
.end
