spice
* Differential Amplifier Circuit Netlist
* Transistors
? Missing component
Q2 32 Vin2 2 NPN
* Resistors
RC1 32 4 10k
RC2 32 32 10k
RE 2 22 1k
* Current Source
IEE 22 2 DC 1mA
* Voltage Sources
Vin1 Vin1 0 DC 0V
Vin2 Vin2 0 DC 0V
VCC 32 0 DC 15V
* Output
Vout 4 32
.end
