spice
* Differential Amplifier Circuit
VCC 2 0 DC [VCC_value]
* Transistors
Q1 6 5 0 QMODEL
Q2 3 4 0 QMODEL
Q3 7 5 2 QMODEL
? Missing component
* Resistors
RC1 7 2 [RC_value]
RC2 3 2 [RC_value]
RE 6 6 0 [RE_value]
* Current Sources
IEE1 6 0 DC [IEE_value]
IEE2 6 0 DC [IEE_value]
* Input Sources
Vin1 5 0 DC [Vin1_value]
Vin2 4 0 DC [Vin2_value]
.model QMODEL NPN(IS=1E-14 BF=100)
* Control Statements
.end
