plaintext
* Differential Amplifier Circuit
* Voltage Sources
VCC 4 0 DC VCC
* Current Sources
IEE 3 0 DC IEE
* Transistors
? Missing component
Q2 5 10 3 NPN
Q3 6 7 2 PNP
Q4 8 5 2 PNP
* Resistors
RP1 6 8 RP
RP2 6 8 RP
* Nodes
* 1: Vout
* 2: VCC
* 3: Ground
* 4: + side of VCC
* 5: Base of Q2
* 6: Emitter of Q3
* 7: Emitter of Q1
* 8: Emitter of Q4
* 9: Base of Q1
* 10: Base of Q2
.END
