* Transistors
Q1 6 9 3 NPN
Q2 2 5 3 NPN
Q3 8 6 2 NPN
? Missing component
* Current Sources
IIN 6 3 DC
IOUT 2 3 DC
IBIAS1 3 4 DC
IBIAS2 8 100 DC
* Resistor
R2 3 3 R2_value
* Voltage Source
VX 2 3 DC
* Voltage Supply
VCC 8 3 DC  VCC_value
