spice
* SPICE Netlist
* Transistors
M3 2 3 8 NMOS
M4 4 3 6 PMOS
M5 6 9 2 PMOS
M6 4 9 2 PMOS
M7 2 2 2 PMOS
* Bipolar Junction Transistors
Q1 8 1 5 NPN
? Missing component
* Resistor
R 6 7 1k
* Current Sources
IIN 8 3 DC 1mA
IBIAS 2 0 DC 1mA
* Voltage Source
VDD 2 0 DC 5V
.END
