* SPICE Netlist
V_OS 7 6 DC 0
R1 7 2 1k
R2 2 2 1k
R3 2 5 1k
Q1 2 3 4 NMOS
? Missing component
* Assume op-amp modeled or connected externally
* Nodes: 
*   2 - Common connection between R1, R2, R3.
*   3 - Gate of Q1
*   4 - Source of Q1 (ground)
*   5 - Source of Q2 (ground)
*   6 - Positive input of V_OS
*   7 - Negative input of V_OS
*   Op-amp input and output connections need extra specification for functionality
.END
